US07855297B2
To a solution of N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.79 g) in toluene (10 mL) was added Lawesson's reagent (0.9 g), and the mixture was heated under reflux for 5 hr. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carbothioamide (0.19 g). melting point: 123-125° C.

reactant | N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.79 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)C(C)C)C | C29H34N2O
reactant | Lawesson's reagent | 0.9 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carbothioamide | 0.19 g | CN(C1=CC=C(C=C1)CN(C(=S)C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)C(C)C)C | C29H34N2S
